US06303593B1
1-Benzyl-4-(2-(phenylmercapto)ethyl)piperidine
A solution of 1 g (4.56 mmol) of 1-benzyl-4-(2-hydroxyethyl)piperidine (Acros Chemical), 5 g (27.8 mmol) of diphenyldisulfide and 5.7 mL (27.9 mmol) of tri-n-butylphosphine in 35 mL of THF was heated at reflux for 46 h. The reaction mixture was concentrated and the residue was purified by chromatography (silica, hexanes:ehtyl acetate, 4:1) to give 1.32 g of the title compound.

reactant | 1-benzyl-4-(2-hydroxyethyl)piperidine | 4.56 mmol, 1 g | C(C1=CC=CC=C1)N1CCC(CC1)CCO | C14H21NO
reactant | diphenyldisulfide | 27.8 mmol, 5 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | tri-n-butylphosphine | 27.9 mmol, 5.7 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-4-(2-(phenylmercapto)ethyl)piperidine | 1.32 g | C(C1=CC=CC=C1)N1CCC(CC1)CCSC1=CC=CC=C1 | C20H25NS
